US05958918
A. 7-Methoxynaphthalene-2-sulfonic acid [1-(5-cyanothiophen-2-ylmethyl)-2-oxopyrrolidin-3-(S)-Yl]-methylamide
The title compound is prepared as in EXAMPLE 126, Part A using 7-methoxynaphthalene-2-sulfonic acid [1-(5-cyanothiophen-2-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide, prepared as in EXAMPLE 148, Part A, in place of 7-methoxynaphthalene-2-sulfonic acid [1-(5-cyanothiophen-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide.

reactant | 7-methoxynaphthalene-2-sulfonic acid [1-(5-cyanothiophen-2-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide | C(#N)C1=CC=C(S1)CN1C([C@H](CC1)NS(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)=O | C21H19N3O4S2
reactant | 7-methoxynaphthalene-2-sulfonic acid [1-(5-cyanothiophen-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide | C(#N)C1=CC(=CS1)CN1C([C@H](CC1)NS(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)=O | C21H19N3O4S2
product | 7-Methoxynaphthalene-2-sulfonic acid [1-(5-cyanothiophen-2-ylmethyl)-2-oxopyrrolidin-3-(S)-Yl]-methylamide | C(#N)C1=CC=C(S1)CN1C([C@H](CC1)N(S(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)C)=O | C22H21N3O4S2
